US07582803B2
6-Bromo-7-(bromomethyl)-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphthalene (91.2).
The mixture of 6-bromo-7-methyl-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphthalene (4.20 g, 15 mmol), NBS (3.20 g, 18 mmol), 2,2′-azobisisobutyronitrile (0.3 g, 1.8 mmol) and CCl4 (120 mL) was heated at reflux for 16 hours. The mixture was concentrated under reduced pressure to about 50 mL. The reaction was then filtered, and the solid was washed with Et2O (20 mL). The combined organic solution was then concentrated under vacuum to generate crude product. Crude 91.2 was generated as a brown oil and used directly in the next step without further purification.

reactant | 6-bromo-7-methyl-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphthalene | 15 mmol, 4.20 g | BrC=1C=C2C(CCC(C2=CC1C)(C)C)(C)C | C15H21Br
reactant | NBS | 18 mmol, 3.20 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 1.8 mmol, 0.3 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | 120 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-Bromo-7-(bromomethyl)-1,1,4,4-tetramethyl-1,2,3,4-tetrahydronaphthalene | BrC=1C=C2C(CCC(C2=CC1CBr)(C)C)(C)C | C15H20Br2
